US05455253
2-(Isobutyl)-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)quinolone.
A solution of 5-methyl-1-(3-nitrophenyl)-1-hexen-3-one (2.52 g), 1,3-cyclohexanedione (1.22 g) and ammonium acetate (1.88 g) in ethanol (65 mL) was stirred at reflux for 7.5 hours. After removal of the solvent, the residue was chromatographed (ethyl acetate/hexane 2:1) to yield the title compound (1.51 g) as a yellow solid; mp 158°-160° C.; NMR: 0.81 (d,3, J=5.8, CH3), 0.86 (d,3, J=5.8, CH3), 1.77-1.97 (m,5, CH2, CH), 2.10-2.23 (m,2, CH2), 2.46 (m,2, CH2), 4.59(d,1,J=4.8, CH), 4.64 (d,1, J=5.8, CH), 7.53 (m,1, Ar), 7.65 (m,1, Ar), 7.97 (m,2, Ar), 8.49 (s,1, NH); MS: m/z=326(M). Analysis for C19H22N 2 O3 : Calculated C, 69.92; H, 6.79; N, 8.58; Found: C, 70.03; H, 6.81; N, 8.54.

reactant | 5-methyl-1-(3-nitrophenyl)-1-hexen-3-one | 2.52 g | CC(CC(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O)C | C13H15NO3
reactant | 1,3-cyclohexanedione | 1.22 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 1.88 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 65 mL | C(C)O | C2H6O
product | 2-(Isobutyl)-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)quinolone | 1.51 g | C(C(C)C)C=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H22N2O3
